US06911562B2
In a three necked round bottom flask (equipped with a condensor, additional funnel and mechanical stirrer) was added 15.2 g of a combination of Raney Nickel and Ni supported on silica. (50:50). 100 ml of a mixture of 50:50 ethanol:water was added and the reaction was heated at reflux conditions. 15.2 g of 2,4-dihydroxy acetophenone in 100 ml of water:ethanol and 10 ml of acetic acid was placed in the additional funnel and slowly added to the mixture (dropwise). The reaction was filtered through a milipore filter to give a pale yellow solution. Concentration of this solution in vacuo gave a solid. This solid was crystalized from 1,2-dichloroethane to give 4-ethyl resorcinol in 80% isolated yield. The unreacted 2,4-dihydroxy acetophenone was recovered (−17%) form the reaction mixture and was recycled. The structure of 4-ethyl resorcinol and 2,4-dihydroxy acetophenone were characterized by NMR, Gas Chromatography, IR and Mass spectroscopy

reactant | ethanol | C(C)O | C2H6O
reactant | 2,4-dihydroxy acetophenone | 15.2 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | 100 ml | O | H2O
product | 4-ethyl resorcinol | C(C)C1=C(C=C(O)C=C1)O | C8H10O2
